US05010195
Preparation of 3-Benzylthio-7-fluoro-5-methylthio-1,2,4-triazolo[4,3-c]pyrimidine
4-Fluoro-2-methylthio-6-hydrazinopyrimidine (15.0 g, 0.086 mol), 15.5 ml (19.7 g, 0.258 mol) of carbon disulfide, 48 ml (34.8 g, 0.344 mol) of triethylamine, and 400 ml of ethanol were combined with stirring and after 15 min heated to reflux with stirring for 2.5 hours. The resulting mixture was allowed to cool to ambient temperature and then 16.4 g (0.129 mol) of benzyl chloride was added with stirring and allowed to react for 3 hours. The volatiles were removed by evaporation under reduced pressure and the residue was dissolved in methylene chloride. The resulting solution was extracted with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was triturated with hexane and filtered to obtain 20.9 g of the title compound as a yellow-orange powder melting at 74° C.-77° C. There was also a small amount of 2-benzyl-thio-7-fluoro-5-methylthio-1,2,4-triazolo[1,5-c]-pyrimidine present. The nmr and uv spectra were consistent with the assigned structure and the presence of the impurity.

reactant | 4-Fluoro-2-methylthio-6-hydrazinopyrimidine | 0.086 mol, 15.0 g | FC1=NC(=NC(=C1)NN)SC | C5H7FN4S
reactant | carbon disulfide | 0.258 mol, 15.5 ml, 19.7 g | C(=S)=S | CS2
reactant | triethylamine | 0.344 mol, 48 ml, 34.8 g | C(C)N(CC)CC | C6H15N
reactant | benzyl chloride | 0.129 mol, 16.4 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 3-Benzylthio-7-fluoro-5-methylthio-1,2,4-triazolo[4,3-c]pyrimidine | 20.9 g | C(C1=CC=CC=C1)SC1=NN=C2N1C(=NC(=C2)F)SC | C13H11FN4S2
